US07384967B2
1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-{4-[2-(1H-imidazol-2-ylsulfanyl)-ethyl]-thiazol-2-yl}-urea (25 mg, 50%) was prepared from methanesulfonic acid 2-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl ester (0.05 g, 0.11 mmol) and 1H-imidazol-2-thiol (0.009 g, 0.11 mmol) following the general procedure Z.

reactant | methanesulfonic acid 2-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl ester | 0.11 mmol, 0.05 g | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CCOS(=O)(=O)C)=O | C20H25N3O5S2
reactant | 1H-imidazol-2-thiol | 0.11 mmol, 0.009 g | N1C(=NC=C1)S | C3H4N2S
product | 1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-{4-[2-(1H-imidazol-2-ylsulfanyl)-ethyl]-thiazol-2-yl}-urea | 25 mg, 50% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC=C(N1)CCSC=1NC=CN1 | C22H25N5O2S2
